** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/testbenches/xschem/res_tb_linearity.sch
**.subckt res_tb_linearity
VDD VDD GND {VDD}
VS vsweep GND 1.5
Vmeas vd net1 0
.save i(vmeas)
E2 vd GND VOL=' {Vcm}+V(vsweep)/2 '
E3 vb GND VOL=' {Vcm}-V(vsweep)/2 '
vc vc_p GND 0
x1 vc_p net1 vb VDD GND vcr_bisection
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerMOShv.lib mos_tt
.lib cornerRES.lib res_typ
.lib cornerDIO.lib dio_tt
.lib cornerCAP.lib cap_typ



* .include ../../../netlist/pex/inverter_magic_pex_3.spice
.param VDD=3.3
.csparam VDD=VDD
.param Vcm=2
.csparam Vcm=Vcm
.param temp=27
.options savecurrents klu method=gear reltol=1e-3 abstol=1e-15 gmin=1e-15 rshunt=1e13
.control
let vcc = 0.75

save all
set appendwrite



repeat 5
  alter vc $&vcc

  * DC Sweep
  dc VS -0.7 0.7 1m
  remzerovec
  let vcc = vcc + 0.25
end
write res_tb_linearity.raw
set appendwrite

* Plotting
plot dc1.v(vsweep)/(dc1.v.x1.Vmeas#branch) dc2.v(vsweep)/(dc2.v.x1.Vmeas#branch) dc3.v(vsweep)/(dc3.v.x1.Vmeas#branch) dc4.v(vsweep)/(dc4.v.x1.Vmeas#branch) dc5.v(vsweep)/(dc5.v.x1.Vmeas#branch) ylimit 0 15k

plot dc1.v.x1.Vmeas#branch dc2.v.x1.Vmeas#branch dc3.v.x1.Vmeas#branch dc4.v.x1.Vmeas#branch dc5.v.x1.Vmeas#branch

* Write Data
unset appendwrite
set wr_vecnames
set wr_singlescale
wrdata ../plot_simulations/data/res_tb_linearity.txt v(vc_p) dc1.v(vsweep)/(dc1.i(Vmeas)) dc2.v(vsweep)/(dc2.i(Vmeas)) dc3.v(vsweep)/(dc3.i(Vmeas)) dc4.v(vsweep)/(dc4.i(Vmeas)) dc5.v(vsweep)/(dc5.i(Vmeas))

write res_tb_linearity.raw

*quit
.endc


**** end user architecture code
**.ends

* expanding   symbol:  macros/voltage_controlled_resistors/macros/vcr_bisection/schematic/xschem/vcr_bisection.sym # of pins=5
** sym_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/schematic/xschem/vcr_bisection.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/vcr_bisection/schematic/xschem/vcr_bisection.sch
.subckt vcr_bisection Vctrl T1 T2 Vdd Vss
*.ipin T1
*.ipin T2
*.ipin Vctrl
*.ipin Vdd
*.ipin Vss
R1 vcm net3 10k
R2 vcm net2 10k
Vmeas T1 net1 0
.save i(vmeas)
XM1 net1 net6 T2 vcm sg13_hv_pmos w=50u l=10u ng=10 m=1 mm_ok=1
I0 Vdd net4 25u
I1 Vdd net5 25u
x1 Vdd net4 net3 net3 T1 Vss Vss op_amp_ver_2
x2 Vdd net5 net2 net2 T2 Vss Vss op_amp_ver_2
x3 Vdd net7 net6 Vctrl Vss Vss vcm voltage_diff
I2 Vdd net7 25u
.ends


* expanding   symbol:  macros/voltage_controlled_resistors/macros/opamp/schematic/xschem/op_amp_ver_2.sym # of pins=7
** sym_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/opamp/schematic/xschem/op_amp_ver_2.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/opamp/schematic/xschem/op_amp_ver_2.sch
.subckt op_amp_ver_2 POAVDD IOAIREF IOAM OOA IOAP POAVSS IOADISABLE
*.iopin POAVDD
*.ipin IOAM
*.ipin IOAP
*.opin OOA
*.ipin IOAIREF
*.iopin POAVSS
*.ipin IOADISABLE
XMP13 net1 net1 POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=1 mm_ok=1
XMP14 ptlg ptlg net1 POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=1 mm_ok=1
XMN16 ptlg ncasc net2 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMN13 net2 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN18 ntlg ntlg net3 POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMN17 net3 net3 POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP10 net11 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP12 ntlg pcasc net11 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP1 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP2 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMN1 net9 IOAM net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1 m=1 mm_ok=1
XMN2 net10 IOAP net5 POAVSS sg13_hv_nmos w=4.8u l=0.45u ng=1 m=1 mm_ok=1
XMN3 net4 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMN6 net5 ncasc net4 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN7 net8 ncasc net7 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN8 ndrive ncasc net6 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=8 mm_ok=1
XMN4 net7 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMN5 net6 net8 POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=8 mm_ok=1
XMP3 net9 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP5 net8 pcasc net9 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMP4 net10 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=4 mm_ok=1
XMP6 pdrive pcasc net10 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMP7 ndrive ptlg pdrive POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=4 mm_ok=1
XMN9 pdrive ntlg ndrive POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=4 mm_ok=1
XMP8 OOA pdrive POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=40 mm_ok=1
XMN10 OOA ndrive POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=40 mm_ok=1
XMN20 IOAIREF IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN21 pcasc IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN22 pbias IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN23 net19 ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN25 net13 nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMN24 ncasc ncasc net22 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN26 nbias ncasc net13 POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMP21 pcasc pcasc net18 POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMP20 net18 pcasc net17 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMP22 net12 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP25 pbias pcasc net12 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP26 ncasc pcasc net15 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP23 net15 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP24 net14 pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMP27 nbias pcasc net14 POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMP16 net17 pcasc net16 POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMN11 net20 ncasc net19 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMP28 net16 pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10.0u ng=1 m=1 mm_ok=1
XMN12 net21 ncasc net20 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMN14 net22 ncasc net21 POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP1 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP2 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDOP1 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP2 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP3 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP4 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDN1 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN2 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDON1 nIOADISABLE IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON2 ntlg IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON3 ndrive IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDON4 IOAIREF IOADISABLE POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDP7 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP8 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDN7 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN8 POAVSS nbias POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN9 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN10 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN11 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN12 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN13 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN14 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN15 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN16 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=2.4u l=0.45u ng=1 m=1 mm_ok=1
XMDN17 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN18 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN19 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN20 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.45u ng=1 m=1 mm_ok=1
XMDN21 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN22 POAVSS IOAIREF POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDP9 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMDN23 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP10 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1u l=10u ng=1 m=1 mm_ok=1
XMDN24 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.4u l=10u ng=1 m=1 mm_ok=1
XMDP11 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP12 POAVDD pbias POAVDD POAVDD sg13_hv_pmos w=1.2u l=1.2u ng=1 m=1 mm_ok=1
XMDP13 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDP14 POAVDD pcasc POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDN25 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN26 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=0.6u l=2.4u ng=1 m=1 mm_ok=1
XMDN27 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDN28 POAVSS ncasc POAVSS POAVSS sg13_hv_nmos w=0.6u l=0.6u ng=1 m=1 mm_ok=1
XMDP15 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8 mm_ok=1
XMDN29 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMDP16 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=2 mm_ok=1
XMDN30 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=2 mm_ok=1
XMDP17 POAVDD POAVDD POAVDD POAVDD sg13_hv_pmos w=2.4u l=0.4u ng=1 m=8 mm_ok=1
XMDN31 POAVSS POAVSS POAVSS POAVSS sg13_hv_nmos w=1.2u l=0.6u ng=1 m=8 mm_ok=1
XMDOP5 nIOADISABLE IOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP6 ptlg nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP7 pdrive nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XMDOP8 pcasc nIOADISABLE POAVDD POAVDD sg13_hv_pmos w=1.2u l=0.6u ng=1 m=1 mm_ok=1
XC1 pdrive OOA cap_cmomi w=40e-6 l=14e-6 mmin=1 mmax=3 feed=double subblock=0 m=1 mm_ok=1
XC2 ndrive OOA cap_cmomi w=40e-6 l=14e-6 mmin=1 mmax=3 feed=double subblock=0 m=1 mm_ok=1
.ends


* expanding   symbol:  macros/voltage_controlled_resistors/macros/voltage_diff/schematic/xschem/voltage_diff.sym # of pins=7
** sym_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/voltage_diff/schematic/xschem/voltage_diff.sym
** sch_path: /home/santi/heichips26-voltage-controlled-resistor/macros/voltage_controlled_resistors/macros/voltage_diff/schematic/xschem/voltage_diff.sch
.subckt voltage_diff POAVDD IOAIREF VOUT V1 POAVSS IOADISABLE V2
*.iopin POAVSS
*.iopin POAVDD
*.iopin IOAIREF
*.iopin V1
*.iopin VOUT
*.iopin V2
*.iopin IOADISABLE
x1 POAVDD IOAIREF net2 VOUT net1 POAVSS IOADISABLE op_amp_ver_2
XR5 net2 V1 POAVSS rhigh w=2e-6 l=20e-6 m=1 b=0 mm_ok=1
XR2 VOUT net2 POAVSS rhigh w=2e-6 l=20e-6 m=1 b=0 mm_ok=1
XR3 net1 V2 POAVSS rhigh w=2e-6 l=20e-6 m=1 b=0 mm_ok=1
XR4 POAVSS net1 POAVSS rhigh w=2e-6 l=20e-6 m=1 b=0 mm_ok=1
.ends

.GLOBAL GND
.GLOBAL VDD
.end
